US06723720B2
6-[2-(4-Chlorophenyl)-vinyl]-3-(2,6-difluorophenyl)-[1,2,4]triazine
140 mg of 1-(4-chlorophenyl)-2-[3-(2,6-difluorophenyl)-[1,2,4]triazin-6-yl]-ethanol and 10 mg of p-toluenesulfonic acid in 10 ml of toluene are boiled under reflux using a water separator for 2 h; the reaction mixture is then poured into water, and the toluene phase is separated off, dried with sodium sulfate and concentrated by evaporation. After recrystallisation of the residue from cyclohexane, the title compound having a melting point of 135-140° C. is obtained.

reactant | 1-(4-chlorophenyl)-2-[3-(2,6-difluorophenyl)-[1,2,4]triazin-6-yl]-ethanol | 140 mg | ClC1=CC=C(C=C1)C(CC1=CN=C(N=N1)C1=C(C=CC=C1F)F)O | C17H12ClF2N3O
reactant | p-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 6-[2-(4-Chlorophenyl)-vinyl]-3-(2,6-difluorophenyl)-[1,2,4]triazine | ClC1=CC=C(C=C1)C=CC1=CN=C(N=N1)C1=C(C=CC=C1F)F | C17H10ClF2N3
